simulator lang=spice


.lib "sky130_release_0.0.4/models/sky130.lib.spice" tt


.include "bg_replace2.post.sp"


VDD (VDD 0) dc 3.3
VSS (GND 0) dc 0
VEn  (En  0) dc 2.0


RL (VBG 0) resistor r=100k


Xbg (VBG En VDD GND) bg_replace2



.dc TEMP -40 125 5


.print DC V(VBG)

