************************************************************************
* auCdl Netlist:
* 
* Library Name:  ring_osc
* Top Cell Name: ring_osc
* View Name:     schematic
* Netlisted on:  Aug 10 18:51:31 2025
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: ring_osc
* Cell Name:    inverter_nmos3finger_3u
* View Name:    schematic
************************************************************************

.SUBCKT inverter_nmos3finger_3u VDD VIN VOUT VSS
*.PININFO VIN:I VOUT:O VDD:B VSS:B
MNM0 VOUT VIN VSS VSS nfet_01v8 W=3u L=300n M=1
MPM0 VOUT VIN VDD VDD pfet_01v8 W=12u L=300n M=1
.ENDS

************************************************************************
* Library Name: ring_osc
* Cell Name:    inverter_nmos4finger_6_2u
* View Name:    schematic
************************************************************************

.SUBCKT inverter_nmos4finger_6_2u VDD VIN VOUT VSS
*.PININFO VIN:I VOUT:O VDD:B VSS:B
MNM0 VOUT VIN VSS VSS nfet_01v8 W=6.2u L=300n M=1
MPM0 VOUT VIN VDD VDD pfet_01v8 W=24.8u L=300n M=1
.ENDS

************************************************************************
* Library Name: ring_osc
* Cell Name:    ring_osc
* View Name:    schematic
************************************************************************

.SUBCKT ring_osc VDDA VOUT VSS
*.PININFO VOUT:O VDDA:B VSS:B
CC0 VOSC net7 $[cap_mim_m3__base] m=1 l=5.7u w=7.5u
MNM11 net12 net10 VSS net15 nfet_01v8 W=420n L=150n M=1
MNM5 net9 net7 VSS VSS nfet_01v8 W=3u L=300n M=1
MNM9 net10 net10 VSS net11 nfet_01v8 W=420n L=150n M=1
MNM1 net8 net8 VSS VSS nfet_01v8 W=3u L=300n M=1
MNM0 net3 net8 VSS VSS nfet_01v8 W=3u L=300n M=1
MPM5 net10 net12 VDDA net14 pfet_01v8 W=550n L=150n M=1
MPM2 net9 net7 VDDA VDDA pfet_01v8 W=12u L=300n M=1
MPM6 net12 net12 VDDA net13 pfet_01v8 W=550n L=150n M=1
XI26 VDDA net2 VOUT VSS / inverter_nmos3finger_3u
XI25 VDDA net9 net2 VSS / inverter_nmos3finger_3u
RR1 net7 net9 VSS $[res_xhigh_po_0p35] r=615.033K w=350n l=84u
XI32 VDDA net4 net5 net3 / inverter_nmos4finger_6_2u
XI34 VDDA net6 VOSC net3 / inverter_nmos4finger_6_2u
XI33 VDDA net5 net6 net3 / inverter_nmos4finger_6_2u
XI30 VDDA net1 net4 net3 / inverter_nmos4finger_6_2u
XI31 VDDA VOSC net1 net3 / inverter_nmos4finger_6_2u
.ENDS

